US08003685B2
5-(3,3-Dimethyl-but-1-ynyl)-3-[(trans-4-methyl-cyclohexanecarbonyl)-(4-oxo-cyclohexyl)-amino]-thiophene-2-carboxylic acid methyl ester (1 eq.) is dissolved in THF. Water is added to the reaction mixture and cooled to −25° C. NaBH4 (0.5 eq.) is added portion wise maintaining the temperature below −20° C. The mixture is stirred for 2 h at −25° C., 2N HCl is then added and the solution is warmed to room temperature. The phases are separated and the aqueous layer is washed with EtOAC. The organic phases are combined and washed with brine and dried over Na2SO4 and concentrated to dryness to give 5-(3,3-dimethyl-but-1-ynyl)-3-[(4-hydroxy-cyclohexyl)-(trans-4-methyl-cyclohexanecarbonyl)-amino]-thiophene-2-carboxylic acid methyl ester as a 93:7 mixture of isomers. The crude cis/trans mixture is recrystallized in methanol to obtain >99% the trans isomer.

reactant | 5-(3,3-Dimethyl-but-1-ynyl)-3-[(trans-4-methyl-cyclohexanecarbonyl)-(4-oxo-cyclohexyl)-amino]-thiophene-2-carboxylic acid methyl ester | 1 eq. | COC(=O)C=1SC(=CC1N(C1CCC(CC1)=O)C(=O)[C@@H]1CC[C@H](CC1)C)C#CC(C)(C)C | C26H35NO4S
reactant | Water | O | H2O
reactant | NaBH4 | 0.5 eq. | [BH4-].[Na+]
reactant | HCl | 2N | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
product | 5-(3,3-dimethyl-but-1-ynyl)-3-[(4-hydroxy-cyclohexyl)-(trans-4-methyl-cyclohexanecarbonyl)-amino]-thiophene-2-carboxylic acid methyl ester | COC(=O)C=1SC(=CC1N(C(=O)[C@@H]1CC[C@H](CC1)C)C1CCC(CC1)O)C#CC(C)(C)C | C26H37NO4S
